US07253192B2
E] 2-Methyl-2-[4-({methyl-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynoyl]-amino}-methyl)-phenoxy]-propionic acid ethyl ester
In analogy to the procedures described in example 29A], 2-methyl-2-(4-methylaminomethyl-phenoxy)-propionic acid ethyl ester was reacted with 5-(4-trifluoromethoxy-phenyl)-pent-4-ynoic acid (example 29D]) to give the title compound as light brown oil.

reactant | 2-methyl-2-(4-methylaminomethyl-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC=C(C=C1)CNC)C)=O | C14H21NO3
reactant | 5-(4-trifluoromethoxy-phenyl)-pent-4-ynoic acid | FC(OC1=CC=C(C=C1)C#CCCC(=O)O)(F)F | C12H9F3O3
product | 2-Methyl-2-[4-({methyl-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynoyl]-amino}-methyl)-phenoxy]-propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC=C(C=C1)CN(C(CCC#CC1=CC=C(C=C1)OC(F)(F)F)=O)C)C)=O | C26H28F3NO5
